US07985755B2
5-[4-(2-Fluoro-3-methyl-benzyl)-piperazin-1-yl]-quinazoline-2,4-diamine
In an 8 mL vial with stir bar, triethylamine (40 mg; 0.4 mmol) was added to a mixture of 5-piperazin-1-yl-quinazoline-2,4-diamine (50 mg; 0.2 mmol) and 2-fluoro-3-methylbenzyl bromide (54 mg; 0.27 mmol) in dimethylformamide and heated to 60° C. for 16 hours. Mixture was quenched with 1 mL of 1N NaOH and after 1.5 hours solids were collected by filtration and triturated with ethanol to obtain 37 mg of title compound. (51% yield). 1H NMR (400 MHz, DMSO-d6) δ 8.86 (s, 1H), 7.2 (m, 3H), 7.07 (t, J=7.6 Hz, 1H), 6.95 (dd, J=8.4, 0.8 Hz, 1H), 6.84 (dd, J=7.6, 0.8 Hz, 1H), 5.90 (br s, 2H), 3.59 (s, 2H), 2.98 (d, J=11.2 Hz, 2H), 2.89 (d, J=12.0 Hz, 2H), 2.81 (t, J=9.6 Hz, 2H), 2.313 (t, J=9.2 Hz, 2H), 2.24 (s, 3H). ESIMS+367.6 m/z

reactant | triethylamine | 0.4 mmol, 40 mg | C(C)N(CC)CC | C6H15N
reactant | 5-piperazin-1-yl-quinazoline-2,4-diamine | 0.2 mmol, 50 mg | N1(CCNCC1)C1=C2C(=NC(=NC2=CC=C1)N)N | C12H16N6
reactant | 2-fluoro-3-methylbenzyl bromide | 0.27 mmol, 54 mg | FC1=C(CBr)C=CC=C1C | C8H8BrF
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 5-[4-(2-Fluoro-3-methyl-benzyl)-piperazin-1-yl]-quinazoline-2,4-diamine | 37 mg, 51% yield | FC1=C(CN2CCN(CC2)C2=C3C(=NC(=NC3=CC=C2)N)N)C=CC=C1C | C20H23FN6
